US04985560
N-[3-(3-Azabicyclo[3.2.2]non-3-yl)propyl]-4-methylpyridazino[4,5-b]indolizin-1-amine
Following the procedure of Example 1, reaction of one equivalent of 1-chloro-4-methylpyridazino[4,5-b]indolizine and 3 equivalents of 3-(3-azabicyclo[3.2.2]non-3-yl)propylamine at 150° C. overnight gave the title compound as the free base which was purified by chromatography (silica gel, 1:4 methanol:methylene chloride containing ammonium hydroxide) and converted to the dihydrochloride salt (ethanol/etheral HCl), mp 343° C. dec.

reactant | 1-chloro-4-methylpyridazino[4,5-b]indolizine | one equivalent | ClC1=NN=C(C2=C1C=C1C=CC=CN21)C | C11H8ClN3
reactant | 3-(3-azabicyclo[3.2.2]non-3-yl)propylamine | 3 equivalents | C12CN(CC(CC1)CC2)CCCN | C11H22N2
product | N-[3-(3-Azabicyclo[3.2.2]non-3-yl)propyl]-4-methylpyridazino[4,5-b]indolizin-1-amine | C12CN(CC(CC1)CC2)CCCNC=2N=NC(=C1C2C=C2C=CC=CN12)C | C22H29N5
